US08211908B2
To a solution of 0.18 g of (6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)acetaldehyde in 4 mL of dichloromethane, 0.16 g of tert-butyl(piperidin-4-yl)carbamate and 47 μL of acetic acid and 0.26 g of sodium triacetoxyborohydride were added, and the mixture was stirred at room temperature for 3 hours. Chloroform and a saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. To the resultant residue, diethyl ether, methanol and hexane were added, and the solid was filtered off to obtain 0.23 g of tert-butyl (1-(2-(6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate as a light brown solid.

reactant | (6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)acetaldehyde | 0.18 g | COC=1C=CC2=C(N(C(C=N2)=O)CC=O)N1 | C10H9N3O3
reactant | tert-butyl(piperidin-4-yl)carbamate | 0.16 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | sodium triacetoxyborohydride | 0.26 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 47 μL | C(C)(=O)O | C2H4O2
product | tert-butyl (1-(2-(6-methoxy-3-oxopyrido(2,3-b)pyrazin-4(3H)-yl)ethyl)piperidin-4-yl)carbamate | 0.23 g | COC=1C=CC2=C(N(C(C=N2)=O)CCN2CCC(CC2)NC(OC(C)(C)C)=O)N1 | C20H29N5O4
